US07820683B2
(2R)—N-ethyl-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 5, methyl (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (200 mg, 0.43 mmol) was reacted with ethylamine to give the title compound as a white solid (188 mg, 91%); NMR Spectrum 1.04 (t, 3H), 1.65 (d, 3H), 3.17 (m, 2H), 5.15 (q, 1H), 5.80 (s, 2H), 7.01 (d, 1H), 7.36 (d, 1H), 7.51 (s, 1H), 7.79-7.72 (m, 3H), 8.12 (s, 1H), 8.44 (m, 1H), 8.53 (m, 2H), 9.04 (s, 1H), 10.69 (br s, 1H); Mass spectrum MH+ 474.

reactant | methyl (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.43 mmol, 200 mg | S1C=NC(=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C23H20N6O3S
reactant | ethylamine | C(C)N | C2H7N
product | (2R)—N-ethyl-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 188 mg, 91% | C(C)NC([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC=1N=CSC1)=O | C24H23N7O2S
